Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Stock Ragweed Pollen Mixture
 
Attending: ___.
 
Chief Complaint:
rupture of membranes, concern for euglycemic DKA

 
Major Surgical or Invasive Procedure:
primary C-section

 
History of Present Illness:
___ G1P0 at ___ with T1DM who arrived as transfer from ___- 
___ with rupture of membranes and concern for euglycemic 
DKA. Pt initially presented to ___ yesterday with 
nausea, vomiting, abd pain. Was given IV fluids, zofran and 
discharged home. She experienced a gush of clear fluid at ___ 
and had continued nausea, vomiting and thus presented again to 
___. At ___ she was confirmed SROM grossly. 
Given her history of T1DM, electrolytes were checked which were 
as follows:

Na 132, K 4.2, Cl 103, HCO3 11, BUN 8, Cr 1.14, glucose 119.
Anion gap =8.
Venous blood gas pH 7.33, pCO2 29.1, Bicarb 14.4, PO2 68.7, CO2
15. 

Urine with 3+ ketones. 

Pt was seen by Internal Medicine. Started on insulin gtt and 
D5NS + 40K. I/O at ___ 1750 IVF, UOP 1550, emesis 600 
mL. Transferred to ___ due to concern for DKA.
 

 
Past Medical History:
PNC: 
- ___ ___ by ___ ultrasound
- Labs Opos /Abs neg/Rub ___ NR/HBsAg neg/HIV neg/GBS 
UNKNOWN
- Screening: not done
- FFS: normal
- U/S ___ 3475gm (78%ile)
- Issues:
-- T1DM, f/b ___, most recent hgbA1C 6.2. Baseline creatinine
0.5. Takes levemir 26 units qAM/qPM and novolog insulin sliding
scale
-- Hepatitis C, most recent viral load on ___ no
current meds
 
OBHx:
- G1
 
GynHx: denies abnormal Pap, fibroids, Gyn surgery, STIs
 
PMH: T1DM as above; Hep C as above
 
PSH: liver biopsy, wisdom teeth

 
Social History:
denies T/E/D. Lives with parents. FOB not involved.
 

 
Physical Exam:
T 98.6 HR 122 BP 133/82
Gen: A&O, vomiting
CV: RRR
PULM: CTAB
Abd: soft, gravid, nontender
Ext: no calf tenderness
 
SVE: deferred, ___ by outside hospital and grossly ruptured

TAUS:
Adequate pelvis

Toco q5-10min
FHT 140/moderate varability/+accels/-decels
 

 
Pertinent Results:
___ 09:02PM   GLUCOSE-121* UREA N-9 CREAT-0.7 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-110* TOTAL CO2-20* ANION GAP-14
___ 09:02PM   ALT(SGPT)-20 AST(SGOT)-18
___ 09:02PM   CALCIUM-8.7 PHOSPHATE-1.4* MAGNESIUM-1.5*
___ 04:45PM URINE  HOURS-RANDOM
___ 04:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-150 BILIRUBIN-NEG UROBILNGN-4* PH-6.0 
LEUK-NEG
___ 04:45PM URINE  RBC-2 WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 04:45PM URINE  HYALINE-6*
___ 04:45PM URINE  MUCOUS-RARE
___ 03:45PM   GLUCOSE-128* UREA N-11 CREAT-0.9 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-106 TOTAL CO2-18* ANION GAP-20
___ 03:45PM   CALCIUM-9.0 PHOSPHATE-2.0* MAGNESIUM-1.5*
___ 03:45PM   WBC-10.1# RBC-3.61*# HGB-11.3*# HCT-30.4*# 
MCV-84 MCH-31.3 MCHC-37.2* RDW-14.0
___ 03:45PM   NEUTS-72.0* ___ MONOS-8.0 EOS-0.2 
BASOS-0.2
___ 03:45PM   PLT COUNT-205
 
Brief Hospital Course:
Ms. ___ is a ___ G1 now P1 who was admitted at 37w 3d and 
was transferred from ___ with spontaneous rupture of 
membranes and euglycemic diabetic ketoacidosis. She was 
transferred for management of euglycemic diabetic ketoacidosis 
which was managed with IV insulin and IV D5 half-normal saline, 
as well as potassium repletion and IV fluid boluses with normal 
saline.  Her labor was induced with Pitocin secondary to 
inadequate contractions.  She arrived to us 3 cm dilated and 
progressed to 6 cm, and continued to be 6 cm for 6 hours prior 
to surgery.  Her Pitocin was turned off twice during her labor 
course secondary to fetal deceleration, which was prolonged with 
good return to baseline.  However, given the inability to 
augment her labor secondary to fetal intolerance of Pitocin, the 
patient was offered a primary cesarean section, and the patient 
decided at this time that she desired a primary cesarean section 
rather than continued augmentation of labor. She delivered a 
liveborn female infant with now APGARS.

Her postpartum course was complicated by pre-eclampsia without 
severe features dignosed on PPD#3. PIH labs were significant for 
P/C ratio 0.4 and uric acid 5.9. She was started on nifedipine 
CR 30mg daily. On ___, she developed a HA and visual 
changes. Her BPs were persistently in 150/80s. She received 12 
hours of magnesium and her HA responded to compazine and 
benadryl. For her T1DM, ___ was following her and by time of 
discharge, she was on lantus 5u Qam. By time of discharge, she 
was ambulating, voiding, pain controlled, BP and glucose 
controlled. She was discharged on POD#5 in stable condition with 
follow up scheduled. 
 

 
Medications on Admission:
PNV, levemir 26units qAM/qPM; novolog with I:C ratio 1:6, goal 
120.

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*40 Capsule Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Q6hrs Disp #*40 Tablet 
Refills:*0
3. NIFEdipine CR 30 mg PO BID 
RX *nifedipine [Procardia XL] 30 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0
4. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q3H:PRN Pain 
RX *oxycodone-acetaminophen [Percocet] 5 mg-325 mg ___ tablet(s) 
by mouth Q4hrs Disp #*40 Tablet Refills:*0
5. Glargine 5 Units Breakfast
Glargine 0 Units Bedtime
** Insulin Carb Counting Scale **
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) 5 
units SC 5 Units before BKFT; 0 Units before BED; Disp #*1 
Syringe Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p primary C-section for arrest of labor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
pelvic rest, nothing in vagina, no heavy lifting
 
Followup Instructions:
___